US07812025B2
4-(4-Phenylpyridin-2-yl)-N-pyridazin-3-ylpiperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl pyridazin-3-ylcarbamate (113 mg, 0.418 mmol), 1-(4-phenylpyridin-2-yl)piperazine (75.0 mg, 0.313 mmol), diisopropylethylamine (0.146 ml, 0.836 mmol) and dimethylsulfoxide (2 ml) was stirred at 70° C. for 3 hours, then the reaction solution was poured into water, and extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled away under reduce pressure, and the residue was recrystallized from ethyl acetate to give the titled compound 52.0 mg (46.0%) as solid product.

reactant | 2,2,2-trichloroethyl pyridazin-3-ylcarbamate | 0.418 mmol, 113 mg | N1=NC(=CC=C1)NC(OCC(Cl)(Cl)Cl)=O | C7H6Cl3N3O2
reactant | 1-(4-phenylpyridin-2-yl)piperazine | 0.313 mmol, 75.0 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)N1CCNCC1 | C15H17N3
reactant | diisopropylethylamine | 0.836 mmol, 0.146 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(4-Phenylpyridin-2-yl)-N-pyridazin-3-ylpiperazine-1-carboxamide | 52.0 mg, 46.0% | C1(=CC=CC=C1)C1=CC(=NC=C1)N1CCN(CC1)C(=O)NC=1N=NC=CC1 | C20H20N6O
